US03952001
A solution of 7.4 g. 3-(2-allyloxyethylthio)-1,2,4-triazole, 8ml. triethylamine 6.0 g. diethylcarbamoyl chloride in 40 ml. of tetrahydrofuran was heated under reflux for 15 hours. The cooled reaction mixture was filtered to remove triethylamine hydrochloride and the filtrate was evaporated under vacuum to remove the solvent. Further precipitation of amine hydrochloride was filtered off. The filtrate was dissolved in 50 ml. methylene chloride and washed with ice-cold N/10 sodium hydroxide, with N/10 hydrochloric acid and finally with ice-cold water. The solvent was removed by vacuum distillation to give a liquid product, 1-diethylcarbamoyl-3-(2-allyloxyethylthio)-1,2,4-triazole, b.p. 148° - 153°C./0.05 mm. GLC assay showed that the 1-isomer was present to the extent of 98.33%. Elemental analysis was satisfactory.

reactant | 3-(2-allyloxyethylthio)-1,2,4-triazole | C(C=C)OCCSC1=NNC=N1 | C7H11N3OS
reactant | triethylamine | 6.0 g | C(C)N(CC)CC | C6H15N
reactant | diethylcarbamoyl chloride | C(C)N(C(=O)Cl)CC | C5H10ClNO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-diethylcarbamoyl-3-(2-allyloxyethylthio)-1,2,4-triazole | C(C)N(C(=O)N1N=C(N=C1)SCCOCC=C)CC | C12H20N4O2S
